US06489487B1
To a solution of 9.24 g (31.1 mmol) of triphosgene in 50 ml of methylene chloride was added dropwise a solution of 4.41 g (15.6 mmol) of 1,1-dimethyl-4-(2-methyl-5-phenylbenzyl)semicarbazide (produced in the following Reference Production Example 15) in 35 ml of methylene chloride with ice-cooling. The mixture was removed from an ice bath, allowed to warm to room temperature, and heated under reflux for 6 hours. After allowing to cool to room temperature, the reaction mixture was poured into 300 ml of an about 5% aqueous solution of sodium bicarbonate, and the mixture was stirred for 1 hour. The organic layer was washed with water, dried and concentrated. The residue was subjected to silica gel column chromatography (developed with n-hexane:ethyl acetate=2:1and then 1:1) to obtain 2.01 g (6.4 mmol) of 5-chloro-2-methyl-4-(2-methyl-5-phenylbenzyl)-2,4-dihydro-3H-1,2,4-triazol-3-one (the compound 7 of the present invention) having a melting point of 115.7° C.

reactant | triphosgene | 31.1 mmol, 9.24 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1,1-dimethyl-4-(2-methyl-5-phenylbenzyl)semicarbazide | 15.6 mmol, 4.41 g | CN(NC(=O)NCC1=C(C=CC(=C1)C1=CC=CC=C1)C)C | C17H21N3O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-methyl-4-(2-methyl-5-phenylbenzyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 6.4 mmol, 2.01 g | ClC=1N(C(N(N1)C)=O)CC1=C(C=CC(=C1)C1=CC=CC=C1)C | C17H16ClN3O
